US07253196B2
(1R,2S,4R)-5,5-Difluorobicyclo[2.2.1]heptan-2-amine hydrochloride
To a suspension of 2-((1R,2S,4R)-5,5-difluorobicyclo[2.2.1]-heptan-2-yl)isoindoline-1,3-dione (0.58 g, 2.09 mmol) in ethanol (anhydrous, 30 mL) was added hydrazine (0.10 mL, 3.14 mmol). After refluxing this mixture under nitrogen for 5 h, it was cooled in an ice bath, and hydrochloric acid (37%, 0.50 mL) was added. After stirring at 60° C. for 1.5 h, the mixture was cooled to ambient temperature. After the white solid was removed by filtration, the filter cake was washed with methanol, and the filtrate was conc. in vacuo. The resulting residue was diluted in ˜50 mL of water, filtered, and the filtrate was washed with diethyl ether (30 mL×3). The filtrate was then treated with sodium carbonate monohydrate to saturation, and the aqueous layer was extracted with diethyl ether (50 mL×3). These organic layers were combined, dried over potassium carbonate (solid), and filtered. The solution was treated with hydrochloric acid (1M aqueous, 4 mL), stirred for 5 min, and then concentrated in vacuo to give the title compound as a white solid.

reactant | 2-((1R,2S,4R)-5,5-difluorobicyclo[2.2.1]-heptan-2-yl)isoindoline-1,3-dione | 2.09 mmol, 0.58 g | FC1([C@H]2C[C@@H]([C@@H](C1)C2)N2C(C1=CC=CC=C1C2=O)=O)F | C15H13F2NO2
reactant | hydrazine | 3.14 mmol, 0.10 mL | NN | H4N2
reactant | hydrochloric acid | 0.50 mL | Cl | ClH
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | (1R,2S,4R)-5,5-Difluorobicyclo[2.2.1]heptan-2-amine hydrochloride | Cl.FC1([C@H]2C[C@@H]([C@@H](C1)C2)N)F | InChI=1S/C7H11F2N.ClH/c8-7(9)3-4-1-5(7)2-6(4)10;/h4-6H,1-3,10H2;1H/t4-,5-,6+;/m1./s1
